datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)Nc1cccc2c1cc1ccccc1[n+:21]2[H:20].Cc1n(C)c2ccccc2[n:10]1>>CC(=O)Nc1cccc2c1cc1ccccc1[n:21]2.Cc1n(C)c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Clc1cc(Cl)c([O-:10])c(C[NH+]2CCOCC2)c1.ONC=[N+:21](O)[H:20]>>Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCOCC2)c1.ONC=[N:21]O 10=20;20,21=21",
"Cc1cc([O:21][H:20])n[nH]1.c1cnc2c(c1)cc([O-:10])c1ncccc12>>Cc1cc([O-:21])n[nH]1.c1cnc2c(c1)cc([O:10][H:20])c1ncccc12 10=20;20,21=21",
"Cc1cc([O-:10])nn1-c1ccccc1.O=[PH]([O-])C([NH2+]Cc1cccc[n+:21]1[H:20])c1ccccc1O>>Cc1cc([O:10][H:20])nn1-c1ccccc1.O=[PH]([O-])C([NH2+]Cc1cccc[n:21]1)c1ccccc1O 10=20;20,21=21",
"Cc1cccc(OCC(=O)[O:21][H:20])c1.Cc1nonc1[N-:10]S(=O)(=O)c1ccc(N)cc1>>Cc1cccc(OCC(=O)[O-:21])c1.Cc1nonc1[N:10](S(=O)(=O)c1ccc(N)cc1)[H:20] 10=20;20,21=21",
"COCC[NH2+:21][H:20].Cc1ccc([N:10]2CCCC2)cc1>>COCC[NH2:21].Cc1ccc([N+:10]2([H:20])CCCC2)cc1 10=20;20,21=21",
"CN1C2CCC(C2)[N:10]1C.Nc1cc[n+:21]([H:20])cc1Br>>CN1C2CCC(C2)[N+:10]1(C)[H:20].Nc1cc[n:21]cc1Br 10=20;20,21=21",
"CC(C)(C)CC(C)(C)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(C)CC(C)(C)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(C[NH2:10])c([N+](=O)[O-])c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(C[NH2+:10][H:20])c([N+](=O)[O-])c1 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:21][H:20].Nc1nccc[n:10]1>>NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:21].Nc1nccc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O[C@H]1CCCC[C@@H]1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[C@H]1CCCC[C@@H]1C[NH2+:10][H:20] 10=20;20,21=21",
"C=C[C@]1(O)C[NH+]2CC[C@H]1C[C@@H]2[C@@H](O)c1cc[n+:21]([H:20])c2ccc(OC)cc12.C[N:10]1[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3>>C=C[C@]1(O)C[NH+]2CC[C@H]1C[C@@H]2[C@@H](O)c1cc[n:21]c2ccc(OC)cc12.C[N+:10]1([H:20])[C@@H]2C[C@@H]3C[C@H]1[C@@H](O)[C@H]2O3 10=20;20,21=21",
"CC(=O)c1ccc(/N=N/c2c(N)[nH][n:10]c2N)cc1.Cc1ccccc1C(c1ccccc1C)=[N+:21](CCCC[NH+](C)C)[H:20]>>CC(=O)c1ccc(/N=N/c2c(N)[nH][n+:10]([H:20])c2N)cc1.Cc1ccccc1C(c1ccccc1C)=[N:21]CCCC[NH+](C)C 10=20;20,21=21",
"CCC[NH2+]CC[NH:10]CCC.COc1cc(C(=O)[O:21][H:20])ccc1C>>CCC[NH2+]CC[NH+:10](CCC)[H:20].COc1cc(C(=O)[O-:21])ccc1C 10=20;20,21=21",
"Cc1cc(C(F)(F)F)[n:10][nH]1.O=C(Cc1c[nH]c2ccccc12)[O:21][H:20]>>Cc1cc(C(F)(F)F)[n+:10]([H:20])[nH]1.O=C(Cc1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"CC(C)(C)c1ccc2c(c1)C(=O)[N-:10]C2=O.c1cnc2ccc3c(ccc[n+:21]3[H:20])c2c1>>CC(C)(C)c1ccc2c(c1)C(=O)[N:10]([H:20])C2=O.c1cnc2ccc3c(ccc[n:21]3)c2c1 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])s1.Nc1nc(NCCO)nc(NCCO)[n+:21]1[H:20]>>Cc1ccc(C(=O)[O:10][H:20])s1.Nc1nc(NCCO)nc(NCCO)[n:21]1 10=20;20,21=21",
"CC1(C)[C@H]2CC[C@@]1(C)[C@@H](O)[C@@H]2C(=O)[O-:10].CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n+:21]1[H:20]>>CC1(C)[C@H]2CC[C@@]1(C)[C@@H](O)[C@@H]2C(=O)[O:10][H:20].CSc1nc(N)c2c(ncn2[C@H]2O[C@H](CO)[C@@H](O)[C@H]2O)[n:21]1 10=20;20,21=21",
"O=C(c1ccc(CO)cc1)[O-:10].[SH2+]c1ccc2c(ccc[n+:21]2[H:20])c1>>O=C(c1ccc(CO)cc1)[O:10][H:20].[SH2+]c1ccc2c(ccc[n:21]2)c1 10=20;20,21=21",
"C[C@@H]1CC[C@@H]2CC[C@H](C)[N:10]21.C[C@H]1CC[C@H]2[C@H](C)CC[C@@H](C(=O)[O:21][H:20])[NH+]2C1>>C[C@@H]1CC[C@@H]2CC[C@H](C)[N+:10]21[H:20].C[C@H]1CC[C@H]2[C@H](C)CC[C@@H](C(=O)[O-:21])[NH+]2C1 10=20;20,21=21",
"CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20].CC[N:10](CC)c1ccc([N+](=O)[O-])cc1>>CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21].CC[N+:10](CC)(c1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"CCC(C)(C)[N+:21](C)(C(C)(C)C)[H:20].[O-]c1ccccc1/C=N/[O-:10]>>CCC(C)(C)[N:21](C)C(C)(C)C.[O-]c1ccccc1/C=N/[O:10][H:20] 10=20;20,21=21",
"O=C1CC(S)C(=O)[N:21]1[H:20].c1ccc(NCC[S-:10])cc1>>O=C1CC(S)C(=O)[N-:21]1.c1ccc(NCC[S:10][H:20])cc1 10=20;20,21=21",
"CCOC(=O)/C(C)=N/[O:21][H:20].O=C(C12CCC(CC1)C2)[O-:10]>>CCOC(=O)/C(C)=N/[O-:21].O=C(C12CCC(CC1)C2)[O:10][H:20] 10=20;20,21=21",
"C(Cc1nnn[n-]1)NCC[NH+:21](CCc1nnn[n-]1)[H:20].CC(C)[NH+](CC[S-:10])C(C)C>>C(Cc1nnn[n-]1)NCC[NH:21]CCc1nnn[n-]1.CC(C)[NH+](CC[S:10][H:20])C(C)C 10=20;20,21=21",
"NCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CSc1ccc[n+:21]([H:20])c1.C[n+]1cccc2c([O-:10])cccc21>>CSc1ccc[n:21]c1.C[n+]1cccc2c([O:10][H:20])cccc21 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(C[NH3+])C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(C[NH3+])C[NH2+:10][H:20] 10=20;20,21=21",
"C[N:10](C)C.Nc1nc[n+:21]([H:20])c2c1nnn2Cc1ccco1>>C[N+:10](C)(C)[H:20].Nc1nc[n:21]c2c1nnn2Cc1ccco1 10=20;20,21=21",
